US06350749B1
To a solution of 20% sodium ethoxide in ethanol (7.4 g) was added at room temperature diethyl malonate (3.6 g), and then added little by little 4-(5-chloro-2-fluorophenyl)-3-buten-2-one (4.3 g). The mixture was stirred at room temperature for 30 minutes and then for 2 hours while heating, and cooled. The solvent was evaporated, and to the residue was added water. The aqueous layer was washed with ethyl acetate and concentrated. To the residue was added 2M sodium hydroxide (17 ml), and the mixture was refluxed for 1 hour and cooled. To the mixture was added 2.5M sulfuric acid (17 ml) for 10 minutes, and the mixture was refluxed for 30 minutes and cooled. Precipitated crystals were filtered and washed with water and isopropylether to give 5-(5-chloro-2-fluorophenyl)cyclohexane-1,3-dione (4.1 g) as pale yellow crystals.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | diethyl malonate | 3.6 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 4-(5-chloro-2-fluorophenyl)-3-buten-2-one | 4.3 g | ClC=1C=CC(=C(C1)C=CC(C)=O)F | C10H8ClFO
solvent | ethanol | 7.4 g | C(C)O | C2H6O
product | 5-(5-chloro-2-fluorophenyl)cyclohexane-1,3-dione | 4.1 g | ClC=1C=CC(=C(C1)C1CC(CC(C1)=O)=O)F | C12H10ClFO2
